Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / tetracycline / naproxen
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with asthma, COPD, and diastolic CHF 
presenting for evaluation of near-syncopal episode today. 
Patient notes that she has had fatigue for approximately 1 week. 
No changes to her appetite or unintentional weight loss. She 
notes that her symptoms improved when she missed 3 days of her 
morning medications (losartan, diltiazem) over the weekend. No 
sick contact. No cough, CP, SOB, increased sputum or changes to 
her sputum. On ___, her fatigue became slightly worse and 
she felt lethargic. On ___ morning, patient developed 
nausea, had one episode of emesis and had difficulty tolerating 
PO. She had ___ mid-abdominal pain. Otherwise, no diarrhea, 
dysuria. She had a near syncopal episode while standing and was 
caught by her son. No associated palpitations, SOB or CP. She 
did not hit her head. No confusion. She denies any chest pain or 
palpitations or shortness of breath. No focal neurologic sx. EMS 
was called and patient brought to BIN. At ___:  
 
 CT torso - negative  
 New ___, lactate 5.6  
 empirically treating with vanc/zosyn  
 urine now pending  
 
Unable to stay at ___ given ICU requirement. Pressures improved 
with IVF.  
 
 UA at ___ negative  
 Trop neg  
 K 3.1, Cr 1.8  
 BNP 593  
 Patient took 2 ASA and drank 1 glass of wine today. Denies OTC 
meds, supplements  
 EKG: NSR, HR 68, NA, QTC 558, no STE  
 Lactate improved with IVF. Patient was suitable for floor 
admission, ___ and possible sepsis of unknown etiology  
 In the ED, initial vitals were: 98.0 108/56 74 19 92%RA  
 Exam notable for: well appearing, benign exam  
 Labs notable for:  
 Lactate 2.3  
 146|106|34  
 ----------<115  
 3.6|28|1.5  
 Ca 7.9 Mg 2.2 Phos 3.9  
 Trop x1 negative  
 LFTs and CBC WNL  
 Patient was given:  
 1LNS, 1x duoneb, pravastatin 40mg, montelukast 10mg  
 On the floor, VS were: 97.7; 121 / 62; 76; 20; 96 RA. She 
reported feeling fine and would like to go home. No residual 
light-headedness. Otherwise, she noted that she was started on 
torsemide this year. She has a cardiologist, who ordered her for 
a TTE in ___. Otherwise, she denied any history of pulmonary 
edema ___ swelling outside of pregnancy. 
 
Past Medical History:
COPD (history of ___ exacerbations in the past, followed by pulm 
at ___  
HTN  
Asthma  
HLD  
Cataract s/p surgery  
dCHF (EF 70% in ___
#ERROR!
s/p hysterectomy  
s/p CCY  
s/p hemorrhoidectomy  
s/p tonsillectomy 
 
Social History:
___
Family History:
Brother with heart disease. +CVA, +HTN. No cancers 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
#ERROR!
 Vital Signs: 97.7; 121 / 62; 76; 20; 96 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
 

DISCHARGE PHYSICAL EXAM
#ERROR!
Vitals: 98.1 | 137/62 | 80 | 16 | 95%ra 
  24h I: 2815cc || 24h O: 980cc
  Ambulatory O2 sats >95-98% with one brief desat to 91%RA (<1 
minutes)
  Orthostatic BP: Laying 137/62 || Sitting 150/79 || Standing 
151/59
General: Well-appearing, alert, no acute distress
HEENT: Sclera anicteric, somewhat dry mucous membranes, 
oropharynx clear  
Neck: supple, no JVD
Lungs: Clear to auscultation bilaterally, left-sided crackles to 
mid-lung, mild inspiratory wheezing
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, no rebound or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Not flushed, no diaphoretic, no rashes on face or upper 
extremity. Right posterior arm with 7cmx3cm ecchymosis, 
nontender, not raised. 
Neuro: Moving all limbs against gravity, face symmetric

 
Pertinent Results:
ADMISSON LABS
#ERROR!
___ 07:12PM   GLUCOSE-120* UREA N-19 CREAT-0.9 SODIUM-144 
POTASSIUM-3.8 CHLORIDE-109* TOTAL CO2-24 ANION GAP-15
___ 10:30AM   GLUCOSE-120* UREA N-24* CREAT-1.1 SODIUM-145 
POTASSIUM-2.5* CHLORIDE-108 TOTAL CO2-26 ANION GAP-14
___ 07:12PM   CALCIUM-8.4 PHOSPHATE-2.7 MAGNESIUM-2.1
___ 10:30AM   CALCIUM-7.8* PHOSPHATE-2.2* MAGNESIUM-2.0
___ 10:30AM   WBC-8.8 RBC-3.71* HGB-11.0* HCT-34.6 MCV-93 
MCH-29.6 MCHC-31.8* RDW-14.0 RDWSD-47.2*
___ 02:52AM   GLUCOSE-115* UREA N-34* CREAT-1.5* 
SODIUM-146* POTASSIUM-3.6 CHLORIDE-106 TOTAL CO2-28 ANION GAP-16
___ 02:52AM   ALT(SGPT)-21 AST(SGOT)-19 ALK PHOS-45 TOT 
BILI-0.2
___ 02:52AM   ALBUMIN-3.6 CALCIUM-7.9* PHOSPHATE-3.9 
MAGNESIUM-2.2
___ 02:52AM   WBC-9.7 RBC-3.84* HGB-11.4# HCT-36.1 MCV-94 
MCH-29.7 MCHC-31.6*# RDW-14.0 RDWSD-47.7*
___ 02:52AM   NEUTS-69.0 ___ MONOS-9.3 EOS-1.2 
BASOS-0.7 IM ___ AbsNeut-6.65* AbsLymp-1.87 AbsMono-0.90* 
AbsEos-0.12 AbsBaso-0.07

DISCHARGE LABS
#ERROR!
___ 06:50AM BLOOD WBC-8.2 RBC-3.88* Hgb-11.5 Hct-36.7 
MCV-95 MCH-29.6 MCHC-31.3* RDW-14.2 RDWSD-48.6* Plt ___
___ 06:50AM BLOOD Glucose-90 UreaN-15 Creat-0.8 Na-144 
K-3.6 Cl-104 HCO3-24 AnGap-___ female with a history of chronic diastolic 
congestive heart failure, hypertension, asthma, and COPD, who 
presented after a syncopal episode in the setting of probable 
viral gastroenteritis, combined with restarting home losartan 
and diltiazem after 1 week only on torsemide.

ACTIVE HOSPITAL PROBLEMS
#ERROR!
# SYCNOPE: Most likely vasovagal in setting of hypovolemia from 
poor PO intake and possible GI viral illness causing her 
nausea/vomiting, along with restarting of losartan and diltiazem 
after 3 days without these medications. [She reported previously 
feeling unwell on diltiazem, losartan & torsemide, and felt 
improved with stopping of diltiazem & losartan]. Syncope 
happened while she was bending over vomiting into toilet, which 
could certainly increase vagal tone. Infection much less likely. 
Orthostatics, EKG and telemetry reassuring. Antihypertensives 
were initially held. Restarted on her home torsemide 20mg daily. 
Losartan dose was restarted at one-half the previous dose 
(50mg). Diltiazem was not restarted at discharge. Discharge 
vital signs were normal; patient was without lightheadedness.

# DIASTOLIC HEART FAILURE: Patient was dyspnic overnight 
___, likely due to IV fluids and holding all home 
mediciations. Symptoms improved with 40mg IV Lasix. Discharged 
on regular home torsemide (20mg daily), half of home losartan 
(50mg dialy), and without diltiazem. 

# HTN: As above, reduced dose of losartan and held diltiazem. 
Patient normotensive (120s-150s/50s-60s) throughout admission.   


# ___: Improved with fluids. Baseline ___ (per Dr. ___ 
___. Was 1.5 on admission, improved to 0.8.

CHRONIC, STABLE ISSUES:
#ERROR!
# COPD: No e/o exacerbation. Home Advair/albuterol.
# Asthma: Home monteluekast  
# HLD: Home pravastatin  
# Anxiety/Depression: Home Escitalopram
# Caratacts: Home latanoprost
 

# CODE: Full (presumed). Patient wanted to talk with her son 
about changing this.  
# CONTACT: ___ (son) ___  

#ERROR!
TRANSITIONAL ISSUES
#ERROR!
# HYPERTENSION: patient felt improved when holding losartan & 
diltiazem. Losartan restarted, but at half dose (50 mg daily). 
Diltiazem 300 mg daily not restarted. Would monitor BP, 
especially given diastolic HF and restart if patient remains 
hypertensive.
# DIASTOLIC HEART FAILURE: patient presented likely hypovolemic 
from acute gastroenteritis & home diuretics. Consider dose 
adjustment as needed. 
 # DISCHARGE WEIGHT: 71.8 kg
 # Echo scheduled for patient ___, as ordered by patient's 
cardiologist, ___ 
 # Prolonged QTc: initially 555 msec, repeat down to 444. Would 
consider repeat EKG. 
# COPD: patient previously on prednisone daily, but patient self 
tapered off prior to admission. Reports baseline dyspnea ___. 
Would consider initiation of other therapy, since Advair at 
500/50. 
# ECCHYMOSIS: posterior aspect of RUE, roughly 7 cm x 4 cm. 
Non-tender, no site of phlebotomy/IV access. Would monitor for 
hematoma development/worsening. 
# CODE STATUS: Patient expressed interest in discussing this and 
potentially changing from full code, but wanted to speak with 
her son. Recommend following up in outpatient setting.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. Montelukast 10 mg PO QHS 
4. Aspirin 81 mg PO DAILY 
5. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
7. Torsemide 20 mg PO DAILY 
8. Escitalopram Oxalate 5 mg PO DAILY 
9. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
QHS 
10. Diltiazem Extended-Release 300 mg PO DAILY 
11. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 

 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
2. Aspirin 81 mg PO DAILY 
3. Escitalopram Oxalate 5 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Montelukast 10 mg PO QHS 
7. Pravastatin 40 mg PO QPM 
8. Torsemide 20 mg PO DAILY 
9. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
QHS 
10. Losartan Potassium 50 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#ERROR!
Orthostatic hypotension
Acute Kidney Injury
Chronic Diastolic Heart Failure
Hypertension

SECONDARY DIAGNOSIS
#ERROR!
Chronic Obstructive Pulmonary Disease
Asthma
Hyperlipidemia
Anxiety/Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted because you fainted (lost consciousness). We 
think this was likely due to dehydration in the setting of 
feeling unwell, taking less food, vomiting, and being on too 
many pills for your blood pressure. 

You improved with some fluids. Your lab values and vital signs 
were much better by the next day.

We are sending you home on your normal torsemide dose, half of 
your losartan dose, and none of your diltiazem, because you told 
us you felt better and had fewer symptoms the week you did not 
take losartan and diltiazem. 

Please be sure to follow up with your primary care doctor and 
cardiologist in the next one to two weeks.

Please return to the nearest hospital if you begin to feel 
unwell again. 

It was a pleasure taking care of you!

We wish you the best.
-Your ___ Care Team
 
Followup Instructions:
___